reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](/[C:5](=[C:6](\[O:7][H:16])[H:17])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],70.7202102996805
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[C:6]([H:11])[H:14])([H:12])[H:13],44.180352686189
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]2=[C:5]([H:14])[C:6]2=[C:7]1[H:15])([H:8])([H:9])[H:10],61.7130281326009
[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[N:3](=[C:4]=[O:5])[O:6][C:7]([H:14])([H:15])[H:16]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],34.574926151084384
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3]([O-:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:11])([H:9])[H:10].[H:8][H:12],95.3175464245684
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])(/[C:6](=[N:7]/[H:8])[H:11])[H:15])([H:13])[H:14])[H:12])([H:9])[H:10],93.901499993494
[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[C:4]=[N:5][H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],93.2331423273837
[C:1](=[C:5]([C:4]([C@:3]1([H:10])[C:2]([H:9])=[N:6]1)([H:11])[H:12])[H:13])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23,74.60791890482645
[C-:4]#[O+:5].[C:2](=[C:3]([H:9])[H:10])([H:7])[H:8].[O:1]([H:6])[H:11]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],60.9571048982064
[C:1](=[N:2][H:11])([H:9])[H:10].[C:3](=[O:4])([C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],54.9246560048412
[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C@@:4]1([C:6]#[C:7][H:15])[H:13].[O:5]([H:8])[H:14]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],62.41082650306221
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:5](=[C:4])[H:12])=[O:6])([H:10])[H:11])([H:7])([H:8])[H:9],69.8823045964737
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:7]1([C:6]([C:4][O:5][H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],29.530726720673186
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:7][C:6](=[O:5])[H:15])([H:11])[H:12])=[C:4]([H:13])[H:14])([H:8])([H:9])[H:10],59.9163527179344
[C:1]([O:2][C:3]([C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],50.560620197987205
[O-:1][C:2]1=[C:3]([H:8])[N+:4]2([H:7])[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],34.6239222289836
[C:1]([C:2]([O:3][O:6][C:5](=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],40.5989439976189
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:11],57.643486478830795
[C:1]([C:2]([C:3]([C:5]([N:4]([C:7]([H:16])([H:17])[H:18])[H:15])=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],116.74611349244397
[C:1]([C:4]([C:2](=[O:3])[H:10])([H:12])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],93.70667694029501
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([O:7]/[C:6](=[N:5]/[H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],69.52270832988401
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C@:3]([N:4]([H:13])[H:14])([H:12])[C:5][N:6]1[H:9],94.7685980471036
